US08138175B2
C) (S)-6-[3-(2,2-Dimethoxy-ethylamino)-propyl]-6-aza-spiro[2.5]octan-4-ol
A mixture of (S)-6-(3-amino-propyl)-6-aza-spiro[2.5]octan-4-ol (200 mg, 1.09 mmol), bromoacetaldehyde (183 mg, 1.09 mmol), potassium carbonate (300 mg, 2.17 mmol), and EtOH (2.5 mL) was heated at 150° C. for 20 min under microwave irradiation, then insoluble material was removed by filtration and the filtrate evaporated to afford 224 mg of a 60:40 mixture of the title compound and the tertiary amine (S)-6-{3-[bis-(2,2-dimethoxy-ethyl)-amino]-propyl}-6-aza-spiro[2.5]octan-4-ol, which was directly used in the next step. Yellow gum, MS: 273.2 (M+H)+.

reactant | (S)-6-(3-amino-propyl)-6-aza-spiro[2.5]octan-4-ol | 1.09 mmol, 200 mg | NCCCN1C[C@H](C2(CC2)CC1)O | C10H20N2O
reactant | bromoacetaldehyde | 1.09 mmol, 183 mg | BrCC=O | C2H3BrO
reactant | potassium carbonate | 2.17 mmol, 300 mg | C([O-])([O-])=O.[K+].[K+]
reactant | EtOH | 2.5 mL | CCO | C2H6O
product | (S)-6-[3-(2,2-Dimethoxy-ethylamino)-propyl]-6-aza-spiro[2.5]octan-4-ol | COC(CNCCCN1C[C@H](C2(CC2)CC1)O)OC | C14H28N2O3
